Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
erythromycin base
 
Attending: ___
 
Chief Complaint:
___
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ restrained driver T-bone on driver side with intrusion, 
+airbag,-LOC, L 1st rib fx, R ___ rib fx, admitted for pain 
control
 
Past Medical History:
PMH: HTN, DM
PSH: none
FHx: breast ca, hypothyroid
 
Social History:
___
Family History:
noncontributory 
 
Physical Exam:
Discharge physical exam:
Afebrile, vitals stable
GEN: A&O, NAD  
HEENT: No scleral icterus, mucus membranes moist, full ROM at 
neck, contusion surrounding R eye  
CV: RRR, No M/G/R  
PULM: Clear to auscultation b/l, No W/R/R. Chest wall tenderness 
b/l. 
ABD: Soft, nondistended, nontender, no rebound or guarding, 
normoactive bowel sounds, no palpable masses  
DRE: normal tone, no gross or occult blood  
Ext: No ___ edema, ___ warm and well perfused  
 
Pertinent Results:
___ 05:35PM BLOOD WBC-10.7* RBC-4.00 Hgb-10.3* Hct-32.2* 
MCV-81* MCH-25.8* MCHC-32.0 RDW-13.2 RDWSD-38.5 Plt ___
___ 05:35PM BLOOD Neuts-57.0 ___ Monos-4.7* 
Eos-0.5* Baso-0.3 Im ___ AbsNeut-6.10 AbsLymp-3.93* 
AbsMono-0.50 AbsEos-0.05 AbsBaso-0.03
___ 05:35PM BLOOD Glucose-288* UreaN-17 Creat-0.9 Na-134 
K-4.4 Cl-101 HCO3-22 AnGap-15

CT head ___: No acute intracranial abnormality.

CT spine ___: Alignment is normal.No cervical spine fracture 
identified. There is no evidence of spinal canal or neural 
foraminal stenosis. There is no prevertebral soft tissue 
swelling. 
  
The thyroid is heterogeneous, containing multiple nodules, with 
a dominant 
heterogeneous nodular area involving the lower aspect of the 
left lobe into the isthmus measuring approximately 4.0 x 2.5 cm. 
 There is a minimally displaced fracture of the first rib 
(2:68). 
  
IMPRESSION: 
   
1. No evidence of cervical spine fracture. 
2. Heterogeneous, enlarged thyroid gland with multiple nodules. 
3. Minimally displaced left first rib fracture. 
  
RECOMMENDATION(S):  Nonemergent thyroid ultrasound for 
evaluation. 

CT torso ___:
IMPRESSION: 
1. Isolated left first rib fracture.  Acute anterolateral right 
seventh and eighth rib fractures.  No other bony trauma in the 
torso. 
2. No evidence of solid organ injury in the chest, abdomen, or 
pelvis. 

___ 09:24PM URINE Color-Yellow Appear-Cloudy Sp ___
___ 09:24PM URINE Blood-TR Nitrite-NEG Protein-30 
Glucose-1000 Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-LG
 
Brief Hospital Course:
The patient was admitted to the trauma general surgery service 
after suffering a motor vehicle accident with the following 
injuries: left first rib fracture and right ___ rib 
fracture. Tertiary exam was positive only for right leg pain so 
xray films were done, which were negative for fracture. The 
patient's cervical spine was cleared. CT cervical spine, abdomen 
and pelvis were otherwise negative. The patient was treated with 
pain control and encouraged to use incentive spirometry, 
allowing her to achieve good respiratory effort. She tolerated a 
regular diet, voided appropriately, and ambulated well prior to 
discharge. She will follow up in ___ clinic in two weeks. 
Additionally, her CT imaging found an incidental 4.0 x 2.5cm 
thyroid nodule. Our radiologists recommend ultrasound follow up 
via her primary care physician. 
During this admission, patient had dysuria, UA was obtained 
which showed large leukocyte esterase, and she was discharged on 
5days of macrobid, instructed to follow up with PCP. 
 
Medications on Admission:
___:
Lantus 27
Humolog sliding scale
Lisinopril 10 mg

 
Discharge Medications:
1.  Acetaminophen 325-650 mg PO Q6H  
2.  Docusate Sodium 100 mg PO BID 
For constipation caused by your pain medication. Hold for loose 
stools.   
3.  Ibuprofen 800 mg PO Q8H:PRN Pain - Mild  
4.  Lidocaine 5% Patch 1 PTCH TD QAM 
RX *lidocaine 5 % Apply 1 patch to rib area daily q24hrs Disp 
#*15 Patch Refills:*0 
5.  Meclizine 25 mg PO TID dizziness 
RX *meclizine 25 mg 1 tablet(s) by mouth three times a day Disp 
#*40 Tablet Refills:*0 
6.  Nitrofurantoin Monohyd (MacroBID) 100 mg PO Q12H Duration: 5 
Days 
Please finish all antibiotics prescribed. 
RX *nitrofurantoin monohyd/m-cryst 100 mg 1 capsule(s) by mouth 
q12hrs Disp #*10 Capsule Refills:*0 
7.  OxyCODONE (Immediate Release) ___ mg PO Q3H:PRN Pain - 
Moderate 
RX *oxycodone 10 mg ___ tablet(s) by mouth q3hrs Disp #*30 
Tablet Refills:*0 
8.  Senna 8.6 mg PO BID:PRN constipation 
For constipation caused by your pain medication. Hold for loose 
stools.   
9.  Glargine 27 Units Breakfast
Insulin SC Sliding Scale using HUM Insulin 
10.  Lisinopril 10 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
1. left 1st rib fracture
2. right ___ rib fractures

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the trauma general surgery service after 
suffering a motor vehicle accident with the following injuries: 
left first rib fracture and right ___ rib fracture. You were 
managed with pain control and encouraged to use incentive 
spirometry to enhance your respiratory effort. You are being 
discharged home in stable condition. Please follow the 
directions below:

* Your injury caused three rib fractures which can cause severe 
pain and subsequently cause you to take shallow breaths because 
of the pain.
 
* You should take your pain medication as directed to stay ahead 
of the pain otherwise you won't be able to take deep breaths. If 
the pain medication is too sedating take half the dose and 
notify your physician.
 
* Pneumonia is a complication of rib fractures.  In order to 
decrease your risk you must use your incentive spirometer 4 
times every hour while awake.  This will help expand the small 
airways in your lungs and assist in coughing up secretions that 
pool in the lungs.
 
* You will be more comfortable if you use a cough pillow to hold 
against your chest and guard your rib cage while coughing and 
deep breathing.
 
* Symptomatic relief with ice packs or heating pads for short 
periods may ease the pain.
 
* Narcotic pain medication can cause constipation therefore you 
should take a stool softener twice daily and increase your fluid 
and fiber intake if possible.
 
* Do NOT smoke
 
* If your doctor allows, non-steroidal ___ drugs 
are very effective in controlling pain ( ie, Ibuprofen, Motrin, 
Advil, Aleve, Naprosyn) but they have their own set of side 
effects so make sure your doctor approves.
 
* Return to the Emergency Room right away for any acute 
shortness of breath, increased pain or crackling sensation 
around your ribs (crepitus).

While at the hospital, you experienced some burning on urination 
and were found to have a urinary tract infection. You were 
discharged on an antibiotic. Please finish all antibiotics 
prescribed and follow up with your PCP within one week to check 
on the urine culture and assess your symptoms/treatment.
 
Followup Instructions:
___